### ISSUE TITLE
Change from List to List TypeClass

### ISSUE THREAD

**Issue by JTylM** [Beneficial-AI-Foundation/deductive-vericoding#26]

**Comment by jinxinglim** [comment]
@JTylM @shaoweilin @alexoltean61 

# 1. What we want

One structure, `ListDecomp`, whose instances are **decompositions of lists**: a DSL program that cuts a list into two pieces, together with what a derivation needs to know about it. The recursion principle is proved **once**, for the structure, and every instance inherits it:

- feed it `uncons` and you get today's head recursion;
- feed it an odd/even split and you get the recursion of merge sort;
- feed it a partition around the head and you get quicksort's.

As a preview, this is the whole structure (step 3 has the details):

```lean
structure ListDecomp where
  code : Trm (.arrow .list (.pair .list .list))                            -- the decomposition, as a DSL program
  Base : List Nat → Prop                                                    -- the inputs it cannot take apart
  base_iff : ∀ l, ¬ Decomposable code.eval l ↔ Base l
  Rel : List Nat → List Nat × List Nat → Prop                               -- what is known about the two pieces
  rel_of_decomposable : ∀ l, Decomposable code.eval l → Rel l (code.eval l)
```

`Decomposable code.eval l` says that both pieces of `code.eval l` are strictly shorter than `l`. The recursor (`decFold`, `decRec` in the DSL) and its correctness theorem are defined once over such a structure; an instance only has to say how it cuts and what that guarantees, and the tactic hands `Base` to the base sub-goal and `Rel` (with the size facts) to the step sub-goal.

Four decisions fix the shape:

1. **An instance is a decomposition only.** The combine step (merge, concatenate) is not part of it: in vericoding the step is what we *derive*, so it arrives later, as a sub-goal.
2. **Any decomposition program is accepted.** The recursor recurses exactly when both pieces are strictly shorter than the input, and otherwise treats the input as a base case. "Not decomposable means base case" is part of the meaning of the DSL, and it is what makes evaluation total for every decomposition with no proof anywhere.
3. **Always two pieces.** One-piece schemes return the real piece and an empty dummy.
4. **A `structure`, not a `class`.** Lists have several useful decompositions and choosing one is a step of the derivation; a class picks one canonical instance per type, which is the wrong mechanism for a choice.

The payoff we are after, and which the steps below reach: from `InsertionSortProblem`'s specification alone, **merge sort and quicksort both come out**, by choosing a different decomposition and writing its natural step. Same spec, different decomposition, different algorithm. (The decomposition alone does not force the algorithm: a step may ignore the recursive results and sort the input directly. The named algorithms come from the steps we actually write, merge and concatenation.)

# 2. How we can achieve it

For this issue, steps 1 to 4 are the deliverable: after them the structure, the constructor and the tactic exist, and #26 can close. Steps 5 onwards show how to *use* what steps 1 to 4 build, merge sort (#28) and quicksort. They are here for completeness, and because they explain why things are built the way they are, so read them even if you stop at step 4.

### Step 1 — `Decomposable` and `decFold` (in `Basic.lean`, before `Trm'`)

```lean
/-- Both pieces of `d l` are strictly shorter than `l`. Decidable, so the recursor can branch on it. -/
def Decomposable (d : List Nat → List Nat × List Nat) (l : List Nat) : Prop :=
  (d l).1.length < l.length ∧ (d l).2.length < l.length

instance (d : List Nat → List Nat × List Nat) (l : List Nat) : Decidable (Decomposable d l) := by
  unfold Decomposable; infer_instance

/-- The recursor behind `decRec`: total for every decomposition, computable. -/
def decFold {Out : Type} (d : List Nat → List Nat × List Nat) (base : List Nat → Out)
    (step : List Nat → List Nat × List Nat → Out × Out → Out) (l : List Nat) : Out :=
  let p := d l          -- the pieces are computed once per node, and `d` is an arbitrary program
  let n := l.length
  if _h : p.1.length < n ∧ p.2.length < n then step l p (decFold d base step p.1, decFold d base step p.2)
  else base l
termination_by l.length
decreasing_by
  · exact _h.1
  · exact _h.2

theorem decFold_base {Out : Type} {d : List Nat → List Nat × List Nat} {base : List Nat → Out}
    {step : List Nat → List Nat × List Nat → Out × Out → Out} {l : List Nat}
    (h : ¬ Decomposable d l) : decFold d base step l = base l := by
  rw [decFold]; exact dif_neg h

theorem decFold_step {Out : Type} {d : List Nat → List Nat × List Nat} {base : List Nat → Out}
    {step : List Nat → List Nat × List Nat → Out × Out → Out} {l : List Nat}
    (h : Decomposable d l) :
    decFold d base step l = step l (d l) (decFold d base step (d l).1, decFold d base step (d l).2) := by
  rw [decFold]; exact dif_pos h

/-- The recursion principle, proved once, with no side condition on `d`. -/
theorem decFold_correct {Out : Type} (d : List Nat → List Nat × List Nat) (base : List Nat → Out)
    (step : List Nat → List Nat × List Nat → Out × Out → Out)
    (Pre : List Nat → Prop) (Post : List Nat → Out → Prop)
    (hpre  : ∀ l, Decomposable d l → Pre l → Pre (d l).1 ∧ Pre (d l).2)
    (hbase : ∀ l, ¬ Decomposable d l → Pre l → Post l (base l))
    (hstep : ∀ l r₁ r₂, Decomposable d l → Pre l → Post (d l).1 r₁ → Post (d l).2 r₂ →
      Post l (step l (d l) (r₁, r₂))) :
    ∀ l, Pre l → Post l (decFold d base step l)
```

Proof of `decFold_correct`: well-founded induction on the length, then `by_cases h : Decomposable d l` and rewrite with `decFold_step` / `decFold_base`.

Lean notes: do not reach for `WellFounded.fix`, it is noncomputable and `#eval` stops working; `termination_by` with `decreasing_by` is the way, and naming the guard (`if _h : …`) is what makes it available to the termination proof (the underscore keeps the unused-variable linter quiet). `(measure List.length).wf.induction` needs the motive spelled out: `(C := fun l => Pre l → Post l (decFold d base step l))`. In the two lemmas, `rw [decFold]` unfolds only the left-hand occurrence; `unfold decFold` would also unfold the recursive calls on the right and the `exact` no longer matches. The `let`s matter: a version that writes `if _h : Decomposable d l then … (d l) …` evaluates `d l` twice per node, once in the decidability test and once in the branch.

*Checkpoint:* it compiles and `decFold (fun l => (l.tail, [])) (fun _ => 0) (fun _ _ (r, _) => r + 1) [1,2,3]` evaluates to `3`.

### Step 2 — the `decRec` constructor, its evaluator and printer

```lean
| decRec {s t : Tpe} : Trm' rep (.arrow .list (.pair .list .list)) →                     -- d
    Trm' rep (.arrow (.pair t .list) s) →                                                  -- base : (par, l) ↦ s
    Trm' rep (.arrow (.pair t (.pair s (.pair s (.pair .list (.pair .list .list))))) s) →  -- step : (par, (r₁, (r₂, (l₁, (l₂, l))))) ↦ s
    Trm' rep (.arrow (.pair t .list) s)
```

```lean
-- eval: precompute the sub-evaluations, as listRec does, so the structural recursion is visibly on subterms
| _, .decRec d base step => fun (par, l) =>
    let dv := d.eval
    let b := base.eval
    let s := step.eval
    decFold dv (fun l => b (par, l)) (fun l ps rs => s (par, (rs.1, (rs.2, (ps.1, (ps.2, l)))))) l
-- prettyAux
| _, .decRec d base step, n =>
    let (ds, n1) := d.prettyAux n
    let (bs, n2) := base.prettyAux n1
    let (ss, n3) := step.prettyAux n2
    (s!"decRec({ds}, {bs}, {ss})", n3)
```

Leave `listRec` exactly as it is. The step tuple is right-nested like `listRec`'s `(par, (rec, (head, tail)))` on purpose: `decodeInputTpe` in `VericodeTactic.lean` walks only the right spine of an input type. There is no extra-data channel: when a decomposition needs the head (pivot), the step has the original `l` and the DSL has `head`. Nothing changes in `Parametrized/Translation.lean`: `toList'` matches on the Parametrized syntax and only *produces* `Trm'`.

*Checkpoint:* the whole `ListLanguage` tree builds, `Solutions.lean` and `InsertionSort.lean` untouched.

### Step 3 — the `ListDecomp` structure (end of `Basic.lean`, after `Impl`)

```lean
structure ListDecomp where
  code : Trm (.arrow .list (.pair .list .list))                            -- the decomposition, as a DSL program
  Base : List Nat → Prop                                                    -- plain description of the derived base case
  base_iff : ∀ l, ¬ Decomposable code.eval l ↔ Base l
  Rel : List Nat → List Nat × List Nat → Prop                               -- what is known about the pieces
  rel_of_decomposable : ∀ l, Decomposable code.eval l → Rel l (code.eval l)
```

```lean
/-- What a step sub-goal learns about the pieces: the instance's relation, plus the facts the
recursion principle knows anyway — the input was not a base case and both pieces are strictly shorter. -/
def ListDecomp.Pieces (D : ListDecomp) (l : List Nat) (p : List Nat × List Nat) : Prop :=
  D.Rel l p ∧ ¬ D.Base l ∧ p.1.length < l.length ∧ p.2.length < l.length

theorem ListDecomp.pieces_of_decomposable (D : ListDecomp) (l : List Nat)
    (h : Decomposable D.code.eval l) : D.Pieces l (D.code.eval l) :=
  ⟨D.rel_of_decomposable l h, fun hb => (D.base_iff l).mpr hb h, h.1, h.2⟩
```

`Base` and `Pieces` are the *proof interface*: the tactic hands `Base l` to the base sub-goal and `Pieces l (l₁, l₂)` to the step sub-goal, so whoever solves a sub-goal never looks inside the decomposition program. The size facts are not decoration: with `oddEvenD.Rel` alone, a permutation, a precondition such as `l ≠ []` could not be shown to descend to the pieces, because `([1, 2], [])` is a permutation split of `[1, 2]`; the strict-length facts rule that out.

### Step 4 — `DecRecTactic` and `DecRecTactic'` (in `Tactics.lean`)

```lean
def DecRecTactic {s t : Tpe} (D : ListDecomp)
    {Pre : t.denote × List Nat → Prop} {Post : t.denote × List Nat → s.denote → Prop}
    (hpre : ∀ p l l₁ l₂, D.Pieces l (l₁, l₂) → Pre (p, l) → Pre (p, l₁) ∧ Pre (p, l₂))
    (base : Impl (.pair t .list) s
      (fun (p, l) ↦ D.Base l ∧ Pre (p, l))
      (fun (p, l) out ↦ Post (p, l) out))
    (step : Impl (.pair t (.pair s (.pair s (.pair .list (.pair .list .list))))) s
      (fun (p, (r₁, (r₂, (l₁, (l₂, l))))) ↦
        D.Pieces l (l₁, l₂) ∧ Pre (p, l) ∧ Post (p, l₁) r₁ ∧ Post (p, l₂) r₂)
      (fun (p, (_, (_, (_, (_, l))))) out ↦ Post (p, l) out)) :
    Impl (.pair t .list) s Pre Post :=
  { code := .decRec D.code base.code step.code
    correct := fun (par, l) pre =>
      decFold_correct D.code.eval _ _ (fun l => Pre (par, l)) (fun l out => Post (par, l) out)
        (fun l hdec hp => hpre par l _ _ (D.pieces_of_decomposable l hdec) hp)
        (fun l hnd hp => base.correct (par, l) ⟨(D.base_iff l).mp hnd, hp⟩)
        (fun l r₁ r₂ hdec hp h₁ h₂ =>
          step.correct (par, (r₁, (r₂, ((D.code.eval l).1, ((D.code.eval l).2, l)))))
            ⟨D.pieces_of_decomposable l hdec, hp, h₁, h₂⟩)
        l pre }
```

`DecRecTactic'` is the variant for `Impl .list s` problems. Two differences from `ListRecTactic'` that matter: its base takes the list (`Impl .list s`), not `.unit`, because a base case is not necessarily `[]`; and its step precondition keeps the original `Pre l`.

```lean
def DecRecTactic' {s : Tpe} (D : ListDecomp) {Pre : List Nat → Prop} {Post : List Nat → s.denote → Prop}
    (hpre : ∀ l l₁ l₂, D.Pieces l (l₁, l₂) → Pre l → Pre l₁ ∧ Pre l₂)
    (base : Impl .list s (fun l ↦ D.Base l ∧ Pre l) (fun l out ↦ Post l out))
    (step : Impl (.pair s (.pair s (.pair .list (.pair .list .list)))) s
      (fun (r₁, (r₂, (l₁, (l₂, l)))) ↦ D.Pieces l (l₁, l₂) ∧ Pre l ∧ Post l₁ r₁ ∧ Post l₂ r₂)
      (fun (_, (_, (_, (_, l)))) out ↦ Post l out)) :
    Impl .list s Pre Post :=
  { code := .lam fun k => .app
      (.decRec D.code (.lam fun p => .app base.code (.snd (.var p)))
                      (.lam fun q => .app step.code (.snd (.var q))))
      (.mkPair .unit (.var k))
    correct := fun l pre =>
      decFold_correct D.code.eval _ _ Pre Post
        (fun l hdec hp => hpre l _ _ (D.pieces_of_decomposable l hdec) hp)
        (fun l hnd hp => base.correct l ⟨(D.base_iff l).mp hnd, hp⟩)
        (fun l r₁ r₂ hdec hp h₁ h₂ =>
          step.correct (r₁, (r₂, ((D.code.eval l).1, ((D.code.eval l).2, l))))
            ⟨D.pieces_of_decomposable l hdec, hp, h₁, h₂⟩)
        l pre }
```

*Checkpoint:* both tactics compile as written, and `#print axioms` reports **no axioms at all** for both.

### Step 5 — first instance, `oddEvenD`, and a plumbing check

The DSL has no arithmetic, so "halves" means the odd/even interleaving (as in CPDT and the thesis): `oddEven (a :: l) = (a :: (oddEven l).2, (oddEven l).1)`. Write it as a reference function, as a `listRec` at result type `.pair .list .list` (step input `(par, (res, (x, xs)))`, output `(x :: res.2, res.1)`), and prove three facts:

```lean
theorem oddEvenCode_eval (l : List Nat) : oddEvenCode.eval l = oddEven l
theorem oddEven_length (l : List Nat) :
    (oddEven l).1.length = (l.length + 1) / 2 ∧ (oddEven l).2.length = l.length / 2
theorem oddEven_perm (l : List Nat) : ((oddEven l).1 ++ (oddEven l).2).Perm l
```

Then the instance: `code := oddEvenCode`, `Base := fun l => l.length ≤ 1` (`base_iff` is `simp only [Decomposable, oddEvenCode_eval]; have := oddEven_length l; omega`), `Rel := fun l p => (p.1 ++ p.2).Perm l` (`rel_of_decomposable` is `oddEven_perm`).

Lean notes: `oddEvenCode_eval` is by induction with `simp only [oddEvenCode, Trm.eval, Trm'.eval, Trm'.eval.go, oddEven] at ih ⊢; rw [ih]`, the same pattern `Solutions.lean` uses. `oddEven_length` is `simp only [oddEven, List.length_cons]; omega` in the cons case.

Plumbing check: derive `Impl .list .list (fun _ => True) (fun l out => out.Perm l)` with `DecRecTactic' oddEvenD`, identity as base, and `ConcatSolution` on `(r₂, r₁)` as step; in the step proof the permutation is `hp.1` where `hp : oddEvenD.Pieces l (l₁, l₂)`. Mind `ConcatProblem`'s argument order, `out = l2.append l1`.

*Checkpoint:* on `[5, 3, 8, 1, 9, 2, 7]` the derived program returns exactly `[5, 9, 8, 7, 3, 2, 1]` (a permutation-only check would not notice swapped `Concat` arguments); `[]` and `[a]` return themselves; `#print axioms` clean.

### Step 6 — two sorting lemmas on the interface

```lean
theorem Sorted_of_length_le_one (h : l.length ≤ 1) : Sorted l l
theorem Sorted_of_merge (hrel : (l₁ ++ l₂).Perm l) (h₁ : Sorted l₁ r₁) (h₂ : Sorted l₂ r₂)
    (hm : MergeSpec (r₁, r₂) out) : Sorted l out
```

The first is `rw [SortedSelf_iff]` and three cases on the list. The second is `⟨hm.1, (hrel.symm.trans (h₁.2.append h₂.2)).trans hm.2⟩`. Their conclusions are exactly the base and step postconditions of merge sort with `Pre := fun _ => True` and `Post l out := Sorted l out`.

### Step 7 — #28: merge, then merge sort

First `MergeSolution : MergeProblem`. Cheapest in proof effort: merge by repeated insertion, `merge l₁ l₂ = foldr insert l₁ l₂`, i.e. `ListRecTactic` over the **second** list with the first in the parameter channel (that is `ListRecTactic`'s `(parameter, list)` orientation, so no swap) and `InsertionSolution` as the step:

```lean
def MergeSolution : MergeProblem :=
  ListRecTactic
    (fun _ x xs h => ⟨h.1, ((Ordered_iff_all_ge_head x xs).mp h.2).2⟩)      -- Pre descends to the tail
    { code := .lam fun p => .var p                                            -- base: merge l₁ [] = l₁
      correct := fun p ⟨hp, _⟩ => ⟨hp, by simp [Trm.eval, Trm'.eval]⟩ }
    { code := .lam fun q => .app InsertionSolution.code                       -- step: insert x into res
        (.mkPair (.fst (.snd (.snd (.var q)))) (.fst (.snd (.var q))))
      correct := fun (p, (res, (x, xs))) ⟨⟨hres, hperm⟩, _⟩ => by
        have hi := InsertionSolution.correct (x, res) hres
        simp only [Trm.eval, Trm'.eval] at hi ⊢
        exact ⟨hi.1, (List.perm_middle.trans (hperm.cons x)).trans hi.2⟩ }
```

Then merge sort is one application of the tactic: `MergeSortSolution : InsertionSortProblem := DecRecTactic' oddEvenD (fun _ _ _ _ _ => ⟨trivial, trivial⟩) base step`, where the base is the identity closed by `Sorted_of_length_le_one hb`, and the step is `MergeSolution.code` on `(r₁, r₂)` closed by `Sorted_of_merge hp.1 h₁ h₂ hm` with `hp : oddEvenD.Pieces l (l₁, l₂)` and `hm := MergeSolution.correct (r₁, r₂) ⟨h₁.1, h₂.1⟩`.

*Checkpoint:* `MergeSortSolution.code.eval` sorts `[5,3,8,1,9,2,7,3]`, `[]`, `[4]`, `[2,2,2,1,1]` and a reverse-sorted list; `#print axioms` clean. This closes #28 as a derivation (see discussion point 3 about cost).

### Step 8 — second instance, `pivotD`

Partition as a `listRec` with the pivot in the parameter channel, step input `(a, (res, (x, xs)))`, step `ite (le x a) (x :: res.1, res.2) (res.1, x :: res.2)`; then `pivotCode := λ l. partCode (head l, tail l)`. Reference functions `partition a l` (mirroring the evaluator: `bif Nat.ble x a then … else …`) and `pivot`. Facts:

```lean
theorem partCode_eval (a) (l) : partCode.eval (a, l) = partition a l
theorem partition_spec (a) (l) : PartSpec (a, l) (partition a l)     -- PartSpec_nil / keep / drop fit exactly
theorem partition_length_le (a) (l) : (partition a l).1.length ≤ l.length ∧ (partition a l).2.length ≤ l.length
theorem pivotCode_eval (l) : pivotCode.eval l = pivot l
```

Instance: `Base := fun l => l = []`, `Rel := fun l p => ∃ a tl, l = a :: tl ∧ PartSpec (a, tl) p`.

Lean notes: `le` evaluates to `Nat.ble` and `ite` to `bif`; in `partition_spec`, `cases hb : Nat.ble x a` and convert with `Nat.le_of_ble_eq_true hb` in the `true` case and `fun h => by simp [Nat.ble_eq_true_of_le h] at hb` in the `false` case. `pivotCode_eval` is `cases l` with `rfl` and `partCode_eval`.

### Step 9 — quicksort

```lean
theorem Ordered_append_pivot (a) (o₁ : Ordered r₁) (o₂ : Ordered r₂)
    (b₁ : ∀ x ∈ r₁, x ≤ a) (b₂ : ∀ x ∈ r₂, ¬ x ≤ a) : Ordered (r₁ ++ a :: r₂)
theorem Sorted_of_pivot (hrel : ∃ a tl, l = a :: tl ∧ PartSpec (a, tl) (l₁, l₂))
    (h₁ : Sorted l₁ r₁) (h₂ : Sorted l₂ r₂) : Sorted l (r₁ ++ l.headD 0 :: r₂)   -- headD 0 is the DSL's head
```

The first is induction on `r₁` with `Ordered_iff_all_ge_head`. In the second, the bounds in `PartSpec` are about the *pieces* while the step concatenates the *results*, so they travel through the recursive permutations with `Perm.mem_iff`; the permutation part is `List.perm_middle`. Then `QuickSortSolution : InsertionSortProblem := DecRecTactic' pivotD _ base step` with `.nil` as base and `ConcatSolution` on `(head l :: r₂, r₁)` as step, closed by `Sorted_of_pivot`.

Lean notes: in the step proof destructure the relation first (`have ⟨a, tl, hl, _⟩ := hp.1; subst hl`, with `hp : pivotD.Pieces l (l₁, l₂)`) so the DSL's `head` reduces on `a :: tl`; `obtain` would clear the hypothesis, `have` keeps it. Structure fields arrive unreduced, so `have hl : l = [] := hb` before `subst hl` in the base.

*Checkpoint:* `QuickSortSolution.code.eval` sorts the same test inputs; `#print axioms` clean. At this point the headline of the issue is demonstrated: two algorithms from one spec.

### Step 10 — afterwards, in this order of value

1. Head recursion as an instance: `unconsD` with `code := .lam fun l => .mkPair (.tail (.var l)) .nil`, `Base := fun l => l = []`, `Rel := fun l p => l ≠ [] ∧ p = (l.tail, [])`; both proofs are `cases l` followed by `simp [Decomposable, Trm.eval, Trm'.eval]`. Check it by copying a list along it: `decRec unconsD.code (λ _. nil) (λ q. cons (head l) r₁)` with `q = (par, (r₁, (r₂, (l₁, (l₂, l)))))` returns its input. Then the theorem that makes the picture exact: `listRec_as_decRec`, i.e. `(listRec base step).eval (par, l) = (decRec unconsD.code base' step').eval (par, l)` for a re-packaged `step'` (`(par, (r₁, (r₂, (l₁, (l₂, l))))) ↦ step (par, (r₁, (head l, l₁)))`). So `listRec` *is* the `uncons` instance. It stays in the language anyway (discussion point 2).
2. A `HeadTactic`, with its contract stated in terms of what `head` computes, `l.headD 0`: quicksort's step needed it and the tactic layer has no combinator for it. Zero is a legitimate element, so test `[0]` and lists containing zeros. Adding the combinator does not extend `natCases`, which only considers numeric input projections, not heads of list projections.
3. Automation-facing lemma shapes. The implication matcher in `VericodeTactic.lean` matches a lemma's conclusion against a postcondition with a fresh output variable, so `Sorted_of_pivot`'s conclusion `Sorted l (r₁ ++ …)` will not match `Sorted l out` directly; provide wrappers with an output-equality premise, e.g. `… → out = r₁ ++ l.headD 0 :: r₂ → Sorted l out`, so that the equality becomes the synthesis obligation. `Vpair` splits *independent* output conditions; a right-nested input tuple does not make coupled permutation or partition conditions separable.
4. Tactic-mode ergonomics: `apply DecRecTactic' pivotD` with the sub-goals appearing as goals, and how the projection tactics cope with the 5-tuple.
5. A linear-time merge. It is a recursion on two lists at once, and the obvious encoding, an outer `listRec` at result type `.arrow .list .list` with an inner fold, is **not** linear under this evaluator: recursive results are computed before the step runs, so discarded suffix merges are still evaluated, and on equal elements the work recurrence is exponential. This needs a concrete DSL construction and a cost argument against the evaluator, not just a `MergeSpec` proof.
6. After #27: registration in `VericodeL`. Harder than adding a rule with lower priority. `D` does not occur in the conclusion, so unification cannot pick it: instantiate each library decomposition explicitly before applying the rule, and restore the metavariable state when an alternative fails. The base sub-goal has the conclusion's input type and postcondition with only a stronger precondition, so the rule can fire on its own base goal; a syntactic guard on `Base` conjuncts is not enough (simplification can remove them, and a degenerate instance with `Base := True` defeats it), so use a progress policy based on application history or explicit metadata, with bounded exploration, tested against simplified and aliased preconditions. `pushpre` expects a single-equation precondition and the step precondition is a conjunction. Start with explicit selection.

# 3. Discussion points

1. **Why not the `ListLike` route.** Your `reachable : ∀ l, l ≠ nil → ∃ x xs, l = cons x xs` cannot drive `eval`: a `Prop` existential cannot be eliminated into data, and `Classical.choice` would make `eval` noncomputable; and your well-definedness worry is right, with finite sets and `insert` as `cons` the result depends on which decomposition is chosen. Your `uncons` version with its two laws fixes uniqueness but not termination: with `α := ℕ ∪ {∞}`, `β := Unit`, `cons := succ` and `succ ∞ = ∞`, both laws hold and recursion on `∞` never ends. What was missing is a size that shrinks; in the design above the recursor checks the sizes itself, so no proof about the decomposition is needed at all. The `elim` version on `fix/issue_26_typeclass` is a correct interface but stores the instance inside `Trm'`, which pushes the syntax to `Type 1`, and with one container in `Tpe` it has one instance. I would park that branch; its idea of stating `eval`'s `listRec` equations as `@[simp]` theorems is worth keeping on its own.
2. **The one semantic commitment.** "Not decomposable means base case" is part of the meaning of `decRec`. Every derived program relies on it in exactly one way: the fallback covers precisely `D.Base`, and the base sub-goal proves the postcondition there, so correctness is guaranteed; nothing guarantees that the base case is small or that choosing a decomposition advances a synthesis. Nothing is substituted or defaulted, and there is no proof anywhere in the syntax. Totality is not a cost bound: `decFold` computes the pieces and the input length once per node, so split and pivot pay a constant factor, but plain head recursion would become quadratic, a one-piece scheme evaluates the base at every dummy leaf, both recursive results are computed even if the step ignores one, and a decomposition such as `(tail l, tail l)` makes progress on both pieces and builds an exponential tree. That is why `listRec` stays, even though `listRec_as_decRec` shows it is the `uncons` instance: it is the linear-time special case, and everything in `Solutions.lean`, `InsertionSort.lean` and `VericodeL` is built on `ListRecTactic`'s sub-goal shapes.
3. **What the two derivations do and do not claim.** They are correct, and that is all the specs ask: ordering and permutation, nothing about cost. The insertion-based merge is quadratic, so `MergeSortSolution` is Θ(n²), a divide-and-conquer *derivation* of a sort rather than an efficient merge sort; a linear merge is a follow-up with its own design (step 10.5). Likewise quicksort with a first-element pivot is quadratic on sorted, reverse-sorted and all-equal inputs. Fine for derivations, not for large `#eval`s; we should say so wherever we show them.

I have all of the above as a patch (`Basic.lean`, `Tactics.lean`, a new `ListDecomps.lean`; builds green, both sorts derived, `#print axioms` clean). If you would rather start from it than retype it, say so and I will push it to a branch; building it yourself from the steps is probably the better way to learn the machinery, and equally fine.

<details><summary>Standalone mirror of the design (Lean core only, no DSL; the three <code>#eval</code>s return the sorted list)</summary>

```lean
/-! #26, final design, Lean-level mirror (no DSL): a *decomposition* is any function
`d : List Nat → List Nat × List Nat`. The recursor recurses exactly when both pieces are strictly
shorter and otherwise treats the input as a base case, so it is total for every `d` and its
correctness theorem has no side condition. A `ListDecomp` bundles a decomposition with what a
derivation needs to know about it: a plain description of the derived base case, and a relation
between a non-base input and its pieces. -/

/-- Both pieces are strictly shorter. -/
def Decomposable (d : List Nat → List Nat × List Nat) (l : List Nat) : Prop :=
  (d l).1.length < l.length ∧ (d l).2.length < l.length

instance (d : List Nat → List Nat × List Nat) (l : List Nat) : Decidable (Decomposable d l) := by
  unfold Decomposable; infer_instance

/-- The recursor: total for every `d`, computable. -/
def decFold {Out : Type} (d : List Nat → List Nat × List Nat) (base : List Nat → Out)
    (step : List Nat → List Nat × List Nat → Out × Out → Out) (l : List Nat) : Out :=
  let p := d l          -- pieces computed once per node
  let n := l.length
  if _h : p.1.length < n ∧ p.2.length < n then step l p (decFold d base step p.1, decFold d base step p.2)
  else base l
termination_by l.length
decreasing_by
  · exact _h.1
  · exact _h.2

theorem decFold_base {Out : Type} {d} {base : List Nat → Out}
    {step : List Nat → List Nat × List Nat → Out × Out → Out} {l : List Nat}
    (h : ¬ Decomposable d l) : decFold d base step l = base l := by
  rw [decFold]; exact dif_neg h

theorem decFold_step {Out : Type} {d} {base : List Nat → Out}
    {step : List Nat → List Nat × List Nat → Out × Out → Out} {l : List Nat}
    (h : Decomposable d l) :
    decFold d base step l = step l (d l) (decFold d base step (d l).1, decFold d base step (d l).2) := by
  rw [decFold]; exact dif_pos h

/-- Proved once, for every `d`. -/
theorem decFold_correct {Out : Type} (d : List Nat → List Nat × List Nat) (base : List Nat → Out)
    (step : List Nat → List Nat × List Nat → Out × Out → Out)
    (Pre : List Nat → Prop) (Post : List Nat → Out → Prop)
    (hpre  : ∀ l, Decomposable d l → Pre l → Pre (d l).1 ∧ Pre (d l).2)
    (hbase : ∀ l, ¬ Decomposable d l → Pre l → Post l (base l))
    (hstep : ∀ l r₁ r₂, Decomposable d l → Pre l → Post (d l).1 r₁ → Post (d l).2 r₂ →
      Post l (step l (d l) (r₁, r₂))) :
    ∀ l, Pre l → Post l (decFold d base step l) := by
  intro l
  refine (measure List.length).wf.induction (C := fun l => Pre l → Post l (decFold d base step l)) l ?_
  intro l ih hp
  by_cases h : Decomposable d l
  · rw [decFold_step h]
    obtain ⟨p₁, p₂⟩ := hpre l h hp
    exact hstep l _ _ h hp (ih _ h.1 p₁) (ih _ h.2 p₂)
  · rw [decFold_base h]
    exact hbase l h hp

/-- A decomposition with its proof interface. (In the DSL, `decompose` is a program.) -/
structure ListDecomp where
  decompose : List Nat → List Nat × List Nat
  Base : List Nat → Prop
  base_iff : ∀ l, ¬ Decomposable decompose l ↔ Base l
  Rel : List Nat → List Nat × List Nat → Prop
  rel_of_decomposable : ∀ l, Decomposable decompose l → Rel l (decompose l)

/-- What a step learns about the pieces: the relation plus the size facts the recursion knows anyway. -/
def ListDecomp.Pieces (D : ListDecomp) (l : List Nat) (p : List Nat × List Nat) : Prop :=
  D.Rel l p ∧ ¬ D.Base l ∧ p.1.length < l.length ∧ p.2.length < l.length

theorem ListDecomp.pieces_of_decomposable (D : ListDecomp) (l : List Nat)
    (h : Decomposable D.decompose l) : D.Pieces l (D.decompose l) :=
  ⟨D.rel_of_decomposable l h, fun hb => (D.base_iff l).mpr hb h, h.1, h.2⟩

/-- What the tactic proves: sub-goals see `Base` and `Pieces`, never the decomposition itself. -/
theorem ListDecomp.correct {Out : Type} (D : ListDecomp) (base : List Nat → Out)
    (step : List Nat → List Nat × List Nat → Out × Out → Out)
    (Pre : List Nat → Prop) (Post : List Nat → Out → Prop)
    (hpre  : ∀ l l₁ l₂, D.Pieces l (l₁, l₂) → Pre l → Pre l₁ ∧ Pre l₂)
    (hbase : ∀ l, D.Base l → Pre l → Post l (base l))
    (hstep : ∀ l l₁ l₂ r₁ r₂, D.Pieces l (l₁, l₂) → Pre l → Post l₁ r₁ → Post l₂ r₂ →
      Post l (step l (l₁, l₂) (r₁, r₂))) :
    ∀ l, Pre l → Post l (decFold D.decompose base step l) :=
  decFold_correct D.decompose base step Pre Post
    (fun l h hp => hpre l _ _ (D.pieces_of_decomposable l h) hp)
    (fun l h hp => hbase l ((D.base_iff l).mp h) hp)
    (fun l r₁ r₂ h hp h₁ h₂ => hstep l _ _ r₁ r₂ (D.pieces_of_decomposable l h) hp h₁ h₂)

/-! Three decompositions. -/

def uncons : List Nat → List Nat × List Nat
  | [] => ([], [])
  | _ :: l => (l, [])

def oddEven : List Nat → List Nat × List Nat
  | [] => ([], [])
  | a :: l => let p := oddEven l; (a :: p.2, p.1)

def pivot : List Nat → List Nat × List Nat
  | [] => ([], [])
  | a :: l => (l.filter (· ≤ a), l.filter (fun x => !(x ≤ a)))

theorem oddEven_length (l : List Nat) :
    (oddEven l).1.length = (l.length + 1) / 2 ∧ (oddEven l).2.length = l.length / 2 := by
  induction l with
  | nil => simp [oddEven]
  | cons a l ih => simp only [oddEven, List.length_cons]; omega

theorem oddEven_perm (l : List Nat) : ((oddEven l).1 ++ (oddEven l).2).Perm l := by
  induction l with
  | nil => simp [oddEven]
  | cons a l ih =>
    simp only [oddEven, List.cons_append]
    exact (List.perm_append_comm.trans ih).cons a

def unconsD : ListDecomp where
  decompose := uncons
  Base := fun l => l = []
  base_iff := by intro l; cases l <;> simp [Decomposable, uncons]
  Rel := fun l p => l ≠ [] ∧ p = (l.tail, [])
  rel_of_decomposable := by
    intro l h
    cases l with
    | nil => simp [Decomposable, uncons] at h
    | cons a tl => exact ⟨by simp, rfl⟩

def oddEvenD : ListDecomp where
  decompose := oddEven
  Base := fun l => l.length ≤ 1
  base_iff := by intro l; simp only [Decomposable]; have := oddEven_length l; omega
  Rel := fun l p => (p.1 ++ p.2).Perm l
  rel_of_decomposable := fun l _ => oddEven_perm l

def pivotD : ListDecomp where
  decompose := pivot
  Base := fun l => l = []
  base_iff := by
    intro l
    cases l with
    | nil => simp [Decomposable, pivot]
    | cons a l =>
      have hp : Decomposable pivot (a :: l) :=
        ⟨Nat.lt_succ_of_le (List.length_filter_le _ _), Nat.lt_succ_of_le (List.length_filter_le _ _)⟩
      simp [hp]
  Rel := fun l p => ∃ a tl, l = a :: tl ∧ (p.1 ++ p.2).Perm tl ∧ (∀ x ∈ p.1, x ≤ a) ∧ (∀ x ∈ p.2, ¬ x ≤ a)
  rel_of_decomposable := by
    intro l _
    cases l with
    | nil => simp [Decomposable, pivot] at *
    | cons a tl =>
      refine ⟨a, tl, rfl, ?_, fun x hx => by simpa using (List.mem_filter.mp hx).2,
        fun x hx => by simpa using (List.mem_filter.mp hx).2⟩
      simpa [pivot] using List.filter_append_perm (fun x => decide (x ≤ a)) tl

/-! The three sorts are one `decFold` each. -/
def isort : List Nat → List Nat := decFold uncons (fun _ => []) (fun l _ (r, _) => ins l.head! r)
where ins (a : Nat) : List Nat → List Nat
  | [] => [a]
  | b :: r => if a ≤ b then a :: b :: r else b :: ins a r
def msort : List Nat → List Nat := decFold oddEven (fun l => l) (fun _ _ (r₁, r₂) => List.merge r₁ r₂)
def qsort : List Nat → List Nat := decFold pivot (fun _ => []) (fun l _ (r₁, r₂) => r₁ ++ l.head! :: r₂)

#eval isort [5, 3, 8, 1, 9, 2, 7, 3]
#eval msort [5, 3, 8, 1, 9, 2, 7, 3]
#eval qsort [5, 3, 8, 1, 9, 2, 7, 3]
```

</details>
